* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.15386934151197734
Fd1_1 0 s1 V1 -7.693467075598868
Gr1_1_1 0 s1 x1_a1 0 67128601253823.9
Gr2_1_1 0 s1 x2_a1 0 -18821970616843.22
Gr3_1_1 0 s1 x3_a1 0 20943285765811.72
Gr4_re_1_1 0 s1 x4_re_a1 0 70388588647.24197
Gr4_im_1_1 0 s1 x4_im_a1 0 16993162337.596685
Gr5_1_1 0 s1 x5_a1 0 -26784469901176.81
Gr6_1_1 0 s1 x6_a1 0 33235971461699.4
Gr7_1_1 0 s1 x7_a1 0 -161892345117159.9
Gr8_1_1 0 s1 x8_a1 0 -270425062850491.06
Gr9_1_1 0 s1 x9_a1 0 356413977770286.75
Gr10_re_1_1 0 s1 x10_re_a1 0 4811000174471.675
Gr10_im_1_1 0 s1 x10_im_a1 0 -1703309756327.1099
Gr11_re_1_1 0 s1 x11_re_a1 0 79349762573.89922
Gr11_im_1_1 0 s1 x11_im_a1 0 -84048706381.96194
Gr12_re_1_1 0 s1 x12_re_a1 0 -2913572567798.9116
Gr12_im_1_1 0 s1 x12_im_a1 0 1015343602320.5529
Gr13_re_1_1 0 s1 x13_re_a1 0 30556309489713.824
Gr13_im_1_1 0 s1 x13_im_a1 0 -21785375775674.906
Gd1_2 0 s1 p2 0 -0.3290765903258386
Fd1_2 0 s1 V2 -16.45382951629193
Gr1_1_2 0 s1 x1_a2 0 144363341772677.2
Gr2_1_2 0 s1 x2_a2 0 -38428105875248.95
Gr3_1_2 0 s1 x3_a2 0 42326850871449.52
Gr4_re_1_2 0 s1 x4_re_a2 0 139341224523.02914
Gr4_im_1_2 0 s1 x4_im_a2 0 19683233973.556656
Gr5_1_2 0 s1 x5_a2 0 -50726510897737.47
Gr6_1_2 0 s1 x6_a2 0 61824984922404.73
Gr7_1_2 0 s1 x7_a2 0 -291897989373908.5
Gr8_1_2 0 s1 x8_a2 0 -492096269324059.5
Gr9_1_2 0 s1 x9_a2 0 643981415048161.6
Gr10_re_1_2 0 s1 x10_re_a2 0 8826320406289.926
Gr10_im_1_2 0 s1 x10_im_a2 0 -2699644733985.5244
Gr11_re_1_2 0 s1 x11_re_a2 0 150730426356.71927
Gr11_im_1_2 0 s1 x11_im_a2 0 -142077953462.27087
Gr12_re_1_2 0 s1 x12_re_a2 0 -5349836863197.156
Gr12_im_1_2 0 s1 x12_im_a2 0 1583338565871.6528
Gr13_re_1_2 0 s1 x13_re_a2 0 56506269280320.57
Gr13_im_1_2 0 s1 x13_im_a2 0 -39312656684300.07
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.8463481649954016e-14
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 6.249418623887984e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 7.942053462348128e-13
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.218422028390127e-12
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 450497520497.212
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -450497520497.212
Rp4_im_im_a1 0 x4_im_a1 8.218422028390127e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.605801362221469e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 3.546143939458881e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.0038798305071694e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.9456354629775503e-11
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.3359212680231292e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 5.832954503127478e-11
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 52419319076.045
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -52419319076.045
Rp10_im_im_a1 0 x10_im_a1 5.832954503127478e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.0923806880911636e-09
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 60376767751.77048
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -60376767751.77048
Rp11_im_im_a1 0 x11_im_a1 1.0923806880911636e-09
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 7.777766544425404e-11
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 53709654476.25288
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -53709654476.25288
Rp12_im_im_a1 0 x12_im_a1 7.777766544425404e-11
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 2.9892896108313864e-11
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 15870463451.849607
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -15870463451.849607
Rp13_im_im_a1 0 x13_im_a1 2.9892896108313864e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.3290765903258386
Fd2_1 0 s2 V1 -16.45382951629193
Gr1_2_1 0 s2 x1_a1 0 144363341772677.34
Gr2_2_1 0 s2 x2_a1 0 -38428105875252.54
Gr3_2_1 0 s2 x3_a1 0 42326850871454.71
Gr4_re_2_1 0 s2 x4_re_a1 0 139341224523.0793
Gr4_im_2_1 0 s2 x4_im_a1 0 19683233973.60759
Gr5_2_1 0 s2 x5_a1 0 -50726510897751.31
Gr6_2_1 0 s2 x6_a1 0 61824984922422.01
Gr7_2_1 0 s2 x7_a1 0 -291897989373957.4
Gr8_2_1 0 s2 x8_a1 0 -492096269324106.56
Gr9_2_1 0 s2 x9_a1 0 643981415048247.9
Gr10_re_2_1 0 s2 x10_re_a1 0 8826320406291.477
Gr10_im_2_1 0 s2 x10_im_a1 0 -2699644733987.0366
Gr11_re_2_1 0 s2 x11_re_a1 0 150730426356.74692
Gr11_im_2_1 0 s2 x11_im_a1 0 -142077953462.39337
Gr12_re_2_1 0 s2 x12_re_a1 0 -5349836863198.282
Gr12_im_2_1 0 s2 x12_im_a1 0 1583338565872.8044
Gr13_re_2_1 0 s2 x13_re_a1 0 56506269280322.38
Gr13_im_2_1 0 s2 x13_im_a1 0 -39312656684305.1
Gd2_2 0 s2 p2 0 0.2864334071342394
Fd2_2 0 s2 V2 14.321670356711971
Gr1_2_2 0 s2 x1_a2 0 -126027263187866.53
Gr2_2_2 0 s2 x2_a2 0 32596489013098.336
Gr3_2_2 0 s2 x3_a2 0 -35693441981883.14
Gr4_re_2_2 0 s2 x4_re_a2 0 -116109008257.3287
Gr4_im_2_2 0 s2 x4_im_a2 0 -9367761694.480663
Gr5_2_2 0 s2 x5_a2 0 41100956149885.61
Gr6_2_2 0 s2 x6_a2 0 -49503820439190.69
Gr7_2_2 0 s2 x7_a2 0 228747212658564.72
Gr8_2_2 0 s2 x8_a2 0 387764145011520.75
Gr9_2_2 0 s2 x9_a2 0 -505287707824083.4
Gr10_re_2_2 0 s2 x10_re_a2 0 -7034700566078.765
Gr10_im_2_2 0 s2 x10_im_a2 0 1945653387036.9148
Gr11_re_2_2 0 s2 x11_re_a2 0 -124057344081.80371
Gr11_im_2_2 0 s2 x11_im_a2 0 109407695586.82355
Gr12_re_2_2 0 s2 x12_re_a2 0 4274241199307.6997
Gr12_im_2_2 0 s2 x12_im_a2 0 -1131014274782.7039
Gr13_re_2_2 0 s2 x13_re_a2 0 -44932751786341.32
Gr13_im_2_2 0 s2 x13_im_a2 0 30840507436634.375
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.8463481649954016e-14
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 6.249418623887984e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 7.942053462348128e-13
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.218422028390127e-12
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 450497520497.212
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -450497520497.212
Rp4_im_im_a2 0 x4_im_a2 8.218422028390127e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.605801362221469e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 3.546143939458881e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.0038798305071694e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.9456354629775503e-11
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.3359212680231292e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 5.832954503127478e-11
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 52419319076.045
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -52419319076.045
Rp10_im_im_a2 0 x10_im_a2 5.832954503127478e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.0923806880911636e-09
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 60376767751.77048
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -60376767751.77048
Rp11_im_im_a2 0 x11_im_a2 1.0923806880911636e-09
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 7.777766544425404e-11
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 53709654476.25288
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -53709654476.25288
Rp12_im_im_a2 0 x12_im_a2 7.777766544425404e-11
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 2.9892896108313864e-11
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 15870463451.849607
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -15870463451.849607
Rp13_im_im_a2 0 x13_im_a2 2.9892896108313864e-11
.ENDS s_equivalent
