* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.2906348152860679
Fd1_1 0 s1 V1 -14.531740764303395
Gr1_1_1 0 s1 x1_a1 0 168619291503552.25
Gr2_1_1 0 s1 x2_a1 0 83400304216168.6
Gr3_1_1 0 s1 x3_a1 0 -70625592747931.86
Gr4_1_1 0 s1 x4_a1 0 201963884124677.3
Gr5_1_1 0 s1 x5_a1 0 -162858797892346.12
Gr6_1_1 0 s1 x6_a1 0 -432203959906632.3
Gr7_re_1_1 0 s1 x7_re_a1 0 -765196195090080.0
Gr7_im_1_1 0 s1 x7_im_a1 0 794687647570381.9
Gr8_1_1 0 s1 x8_a1 0 1803168965264543.5
Gr9_re_1_1 0 s1 x9_re_a1 0 -1925855529727.596
Gr9_im_1_1 0 s1 x9_im_a1 0 -40626676243817.92
Gr10_re_1_1 0 s1 x10_re_a1 0 57880198525701.54
Gr10_im_1_1 0 s1 x10_im_a1 0 95594863703917.53
Gr11_re_1_1 0 s1 x11_re_a1 0 3991353585418.346
Gr11_im_1_1 0 s1 x11_im_a1 0 -1362690205863.721
Gr12_1_1 0 s1 x12_a1 0 -3407181760565.032
Gr13_re_1_1 0 s1 x13_re_a1 0 -5462650570889.894
Gr13_im_1_1 0 s1 x13_im_a1 0 12465491578651.014
Gr14_re_1_1 0 s1 x14_re_a1 0 -1889776595813.8542
Gr14_im_1_1 0 s1 x14_im_a1 0 696166075163.249
Gd1_2 0 s1 p2 0 -0.6854499277038651
Fd1_2 0 s1 V2 -34.27249638519326
Gr1_1_2 0 s1 x1_a2 0 397355327782853.8
Gr2_1_2 0 s1 x2_a2 0 186629446463320.12
Gr3_1_2 0 s1 x3_a2 0 -158782962834064.0
Gr4_1_2 0 s1 x4_a2 0 445467018188007.75
Gr5_1_2 0 s1 x5_a2 0 -359557301662006.25
Gr6_1_2 0 s1 x6_a2 0 -952793404504558.6
Gr7_re_1_2 0 s1 x7_re_a2 0 -1685587430143192.2
Gr7_im_1_2 0 s1 x7_im_a2 0 1752784595201626.0
Gr8_1_2 0 s1 x8_a2 0 3971442835886706.5
Gr9_re_1_2 0 s1 x9_re_a2 0 -4720666564390.471
Gr9_im_1_2 0 s1 x9_im_a2 0 -89409327806327.69
Gr10_re_1_2 0 s1 x10_re_a2 0 128446946709031.95
Gr10_im_1_2 0 s1 x10_im_a2 0 210206031425131.1
Gr11_re_1_2 0 s1 x11_re_a2 0 8801052678497.367
Gr11_im_1_2 0 s1 x11_im_a2 0 -2956040172374.9824
Gr12_1_2 0 s1 x12_a2 0 -7411101423472.526
Gr13_re_1_2 0 s1 x13_re_a2 0 -11895388738937.365
Gr13_im_1_2 0 s1 x13_im_a2 0 27417357124505.156
Gr14_re_1_2 0 s1 x14_re_a2 0 -4180664739464.144
Gr14_im_1_2 0 s1 x14_im_a2 0 1499670048848.7625
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.9713385868404555e-14
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.731020958357726e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 4.694645799730995e-13
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.881031968944195e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.540476743474669e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 4.349760848200587e-12
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 7.701167976983443e-12
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 36642506809.393425
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -36642506809.393425
Rp7_im_im_a1 0 x7_im_a1 7.701167976983443e-12
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 8.876091955704335e-12
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 2.6575821775883774e-11
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 72505618371.15057
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -72505618371.15057
Rp9_im_im_a1 0 x9_im_a1 2.6575821775883774e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.5490748620579713e-11
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 65435374443.47815
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -65435374443.47815
Rp10_im_im_a1 0 x10_im_a1 1.5490748620579713e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.2908518688011732e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 70599024338.65628
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -70599024338.65628
Rp11_im_im_a1 0 x11_im_a1 1.2908518688011732e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 2.9026052461241827e-11
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 4.36949699489744e-11
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 74394471653.57062
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -74394471653.57062
Rp13_im_im_a1 0 x13_im_a1 4.36949699489744e-11
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 2.4137031409486255e-10
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 70292585414.58144
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -70292585414.58144
Rp14_im_im_a1 0 x14_im_a1 2.4137031409486255e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.6854499277038651
Fd2_1 0 s2 V1 -34.27249638519326
Gr1_2_1 0 s2 x1_a1 0 397355327782853.44
Gr2_2_1 0 s2 x2_a1 0 186629446463324.72
Gr3_2_1 0 s2 x3_a1 0 -158782962834066.9
Gr4_2_1 0 s2 x4_a1 0 445467018188003.94
Gr5_2_1 0 s2 x5_a1 0 -359557301662012.8
Gr6_2_1 0 s2 x6_a1 0 -952793404504239.6
Gr7_re_2_1 0 s2 x7_re_a1 0 -1685587430141580.2
Gr7_im_2_1 0 s2 x7_im_a1 0 1752784595200743.2
Gr8_2_1 0 s2 x8_a1 0 3971442835883228.5
Gr9_re_2_1 0 s2 x9_re_a1 0 -4720666564458.575
Gr9_im_2_1 0 s2 x9_im_a1 0 -89409327806217.64
Gr10_re_2_1 0 s2 x10_re_a1 0 128446946709033.3
Gr10_im_2_1 0 s2 x10_im_a1 0 210206031424822.0
Gr11_re_2_1 0 s2 x11_re_a1 0 8801052678483.908
Gr11_im_2_1 0 s2 x11_im_a1 0 -2956040172380.016
Gr12_2_1 0 s2 x12_a1 0 -7411101423458.488
Gr13_re_2_1 0 s2 x13_re_a1 0 -11895388738898.807
Gr13_im_2_1 0 s2 x13_im_a1 0 27417357124482.82
Gr14_re_2_1 0 s2 x14_re_a1 0 -4180664739457.552
Gr14_im_2_1 0 s2 x14_im_a1 0 1499670048851.1191
Gd2_2 0 s2 p2 0 0.6404165765151539
Fd2_2 0 s2 V2 32.0208288257577
Gr1_2_2 0 s2 x1_a2 0 -371111454549792.2
Gr2_2_2 0 s2 x2_a2 0 -170122319911700.12
Gr3_2_2 0 s2 x3_a2 0 145065109186982.97
Gr4_2_2 0 s2 x4_a2 0 -403347126266836.56
Gr5_2_2 0 s2 x5_a2 0 325676808042533.75
Gr6_2_2 0 s2 x6_a2 0 863393159621696.4
Gr7_re_2_2 0 s2 x7_re_a2 0 1531526057138195.2
Gr7_im_2_2 0 s2 x7_im_a2 0 -1588969850943503.0
Gr8_2_2 0 s2 x8_a2 0 -3608286750603192.0
Gr9_re_2_2 0 s2 x9_re_a2 0 3931723114745.5
Gr9_im_2_2 0 s2 x9_im_a2 0 80621708288027.3
Gr10_re_2_2 0 s2 x10_re_a2 0 -115602361647595.72
Gr10_im_2_2 0 s2 x10_im_a2 0 -190863083429828.7
Gr11_re_2_2 0 s2 x11_re_a2 0 -7893141572905.532
Gr11_im_2_2 0 s2 x11_im_a2 0 2591610164185.7075
Gr12_2_2 0 s2 x12_a2 0 6914404994227.297
Gr13_re_2_2 0 s2 x13_re_a2 0 10774068944775.299
Gr13_im_2_2 0 s2 x13_im_a2 0 -24571998766208.336
Gr14_re_2_2 0 s2 x14_re_a2 0 3750690917647.0713
Gr14_im_2_2 0 s2 x14_im_a2 0 -1312949546858.4631
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.9713385868404555e-14
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.731020958357726e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 4.694645799730995e-13
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.881031968944195e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.540476743474669e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 4.349760848200587e-12
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 7.701167976983443e-12
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 36642506809.393425
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -36642506809.393425
Rp7_im_im_a2 0 x7_im_a2 7.701167976983443e-12
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 8.876091955704335e-12
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 2.6575821775883774e-11
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 72505618371.15057
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -72505618371.15057
Rp9_im_im_a2 0 x9_im_a2 2.6575821775883774e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.5490748620579713e-11
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 65435374443.47815
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -65435374443.47815
Rp10_im_im_a2 0 x10_im_a2 1.5490748620579713e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.2908518688011732e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 70599024338.65628
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -70599024338.65628
Rp11_im_im_a2 0 x11_im_a2 1.2908518688011732e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 2.9026052461241827e-11
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 4.36949699489744e-11
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 74394471653.57062
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -74394471653.57062
Rp13_im_im_a2 0 x13_im_a2 4.36949699489744e-11
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 2.4137031409486255e-10
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 70292585414.58144
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -70292585414.58144
Rp14_im_im_a2 0 x14_im_a2 2.4137031409486255e-10
.ENDS s_equivalent
